US05747485
To a solution of 0.150 g of [S-(R*,S*)] 4-((3,3-diethyl-1-(((1-(4-methylphenyl)butyl)amino)-carbonyl)-4-oxo-2-azetidinyl)oxy)benzoic acid in 5 ml methylene chloride containing a catalytic amount of dimethylformamide is added 0.5 ml of oxalyl chloride. The mixture is stirred at room temperature for 30 minutes and then concentrated in vacuo to yield (S-(R*,S*))-4-((3,3-diethyl-1-((1-(4-methyl-phenyl)-butylamino)carbonyl)-4-oxo-2-azetidinyl)oxy)-benzoyl chloride.

reactant | 4-((3,3-diethyl-1-(((1-(4-methylphenyl)butyl)amino)-carbonyl)-4-oxo-2-azetidinyl)oxy)benzoic acid | C(C)C1(C(N(C1=O)C(=O)NC(CCC)C1=CC=C(C=C1)C)OC1=CC=C(C(=O)O)C=C1)CC | C26H32N2O5
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-((3,3-diethyl-1-((1-(4-methyl-phenyl)-butylamino)carbonyl)-4-oxo-2-azetidinyl)oxy)-benzoyl chloride | C(C)C1(C(N(C1=O)C(=O)NC(CCC)C1=CC=C(C=C1)C)OC1=CC=C(C(=O)Cl)C=C1)CC | C26H31ClN2O4
